US06953787B2
N-Trifluoroacetyl-7-allyloxy-8-bromo-1-isopropyl-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-trifluoroacetyl-8-bromo-7-hydroxy-1-isopropyl-2,3,4,5-tetrahydro-1H-3-benzazepine (0.017 g, 0.045 mmol) in dichloromethane (1 mL) was treated with N′″-tert-butyl-N,N,N′,N′,N″,N″-hexamethylphosphorimidic triamide (0.016 g, 0.068 mmol), allyl bromide (0.011 g, 0.09 mmol) and stirred for 3 hours at 20 C. The product mixture was diluted with 10% aqueous HCl, extracted twice with dichloromethane (20 mL), and concentrated. Flash chromatography (10% EtOAc in hexanes, silica) resulted in 0.011 g of a clear oil. MS calculated for C18H21BrF3NO2+H: 420, observed: 420.

reactant | N-trifluoroacetyl-8-bromo-7-hydroxy-1-isopropyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.045 mmol, 0.017 g | FC(C(=O)N1CCC2=C(C(C1)C(C)C)C=C(C(=C2)O)Br)(F)F | C15H17BrF3NO2
reactant | N′″-tert-butyl-N,N,N′,N′,N″,N″-hexamethylphosphorimidic triamide | 0.068 mmol, 0.016 g | C(C)(C)(C)N=P(N(C)C)(N(C)C)N(C)C | C10H27N4P
reactant | allyl bromide | 0.09 mmol, 0.011 g | C(C=C)Br | C3H5Br
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | HCl | Cl | ClH
product | N-Trifluoroacetyl-7-allyloxy-8-bromo-1-isopropyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.011 g | FC(C(=O)N1CCC2=C(C(C1)C(C)C)C=C(C(=C2)OCC=C)Br)(F)F | C18H21BrF3NO2
